US07947686B2
Step 2. 3-Amino-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester
To a solution of 141.5 g of 3-cyano-4-hydroxy-1,2,5,6-tetrahydropyridine-1-carboxylic acid tert-butyl ester in 1.2 L of ethanol were added under stirring 57.8 mL of aqueous 35% hydrazine. The mixture was heated at 70° C. for 4 h. The solution was evaporated at under vacuum, the residue was diluted with 1 L of water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulfate and evaporated to dryness. The crude product was taken-up with 300 mL tert-butyl methyl ether and the crystallized compound was collected by filtration to give 115.6 g of the title compound.

reactant | 3-cyano-4-hydroxy-1,2,5,6-tetrahydropyridine-1-carboxylic acid tert-butyl ester | 141.5 g | C(C)(C)(C)OC(=O)N1CC(=C(CC1)O)C#N | C11H16N2O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | 1.2 L | C(C)O | C2H6O
product | 3-Amino-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 115.6 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN=C2N | C11H18N4O2
